US06949579B2
N-[5,6-bis[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide
16.3 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 1.9 g of N-[5,6-bis[4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide, described previously, in 100 cm3 of tetrahydrofuran. The medium is then refluxed for 18 hours and is then allowed to return to room temperature and 100 cm3 of ethyl acetate are added; the organic phase is washed with 2×100 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 100 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4.5 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); the residue is taken up in 25 cm3 of diisopropyl ether, filtered off on a sinter funnel and washed with 2×20 cm 3 of diisopropyl ether. After drying under reduced pressure (90 Pa; 50° C.), 700 mg of N-[5,6-bis[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide are obtained in the form of white crystals melting at 140° C.

reactant | tetrabutylammonium fluoride | 16.3 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[5,6-bis[4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide | 1.9 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)C=1C=C2C(=NN(C2=CC1C1=CC=C(C=C1)OCC1=CC=CC=C1)COCC[Si](C)(C)C)NC(CCC)=O | C43H47N3O4Si
reactant | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
product | N-[5,6-bis[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | C1(=CC=CC=C1)COC1=CC=C(C=C1)C=1C=C2C(=NNC2=CC1C1=CC=C(C=C1)OCC1=CC=CC=C1)NC(CCC)=O | C37H33N3O3
